US04582837
8-[2'-Methoxy-4'-(4-morpholinyl-sulfonyl)-phenyl]-purine
An amount of 0.8 ml of morpholine was dissolved in a two-phase mixture of 40 ml of ethyl acetate and 40 ml of water. Then, 1 gm of crude 8-(2'-methoxy-4'-chlorosulfonylphenyl)-purine hydrochloride was added thereto in batches, under vigorous stirring, and the resulting mixture was heated to 80° C. for two hours. The reaction mixture was concentrated down to one-third of the volume, and the crystals precipitated were subjected to suction filtration and washed with water.

reactant | morpholine | 0.8 ml | N1CCOCC1 | C4H9NO
reactant | 8-(2'-methoxy-4'-chlorosulfonylphenyl)-purine hydrochloride | 1 gm | Cl.COC1=C(C=CC(=C1)S(=O)(=O)Cl)C1=NC2=NC=NC=C2N1
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 40 ml | O | H2O
product | 8-[2'-Methoxy-4'-(4-morpholinyl-sulfonyl)-phenyl]-purine | COC1=C(C=CC(=C1)S(=O)(=O)N1CCOCC1)C1=NC2=NC=NC=C2N1 | C16H17N5O4S
